US09416138B2
3-(Azidomethyl)-3,4-dihydro-2H-isoquinolin-1-one
Dissolve (1-oxo-3,4-dihydro-2H-isoquinolin-3-yl)methyl methanesulfonate (3 g, 11.7 mmol) in DMF (10 mL). Add NaN3; heat to 70° C. and stir overnight. Concentrate under reduced pressure; add water; and extract with EtOAc. Combine the extracts and remove the solvents under reduced pressure to provide the title compound (1.7 g, 71.5%). 1H NMR (400 mHz, CDCl3): δ 8.1 (s, 1H), 7.6 (m, 1H), 7.5 (m, 1H), 7.0 (s, 1H), 3.9 (m, 1H), 3.5 (m, 2H), 3.0 (m, 2H).

reactant | (1-oxo-3,4-dihydro-2H-isoquinolin-3-yl)methyl methanesulfonate | 11.7 mmol, 3 g | CS(=O)(=O)OCC1NC(C2=CC=CC=C2C1)=O | C11H13NO4S
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(Azidomethyl)-3,4-dihydro-2H-isoquinolin-1-one | 1.7 g, 71.5% | N(=[N+]=[N-])CC1NC(C2=CC=CC=C2C1)=O | C10H10N4O
